US05721234
Preparation of N-(2,3-dioxo-2,3,4,7,8,9-hexahydro-1H-cyclopenta[f]quinoxalin-8-yl)-acetamide
A mixture of N-(5-amino-6-bromo-4-nitro-indan-2-yl)acetamide (0.5 g, 1.6 mmol), 5% palladium on carbon (0.2 g) and sodium acetate (0.16 g) in methanol (75 mL) was placed on a Parr hydrogenation apparatus under a hydrogen atmosphere (51 psi) and shaken for 18 h. After removing the catalyst by filtration, the solvent was evaporated and the residue was suspended in 2N HCl, treated with oxalic acid (0.5 g) and then heated at 80° C. for 4 h. The water was evaporated and the residue dissolved in saturated sodium bicarbonate and acetic anhydride (1 mL) was added. The resulting solid was collected by filtration and dried in vacuo to give a brown solid (0.15 g) in 36% yield.

reactant | N-(5-amino-6-bromo-4-nitro-indan-2-yl)acetamide | 1.6 mmol, 0.5 g | NC=1C(=C2CC(CC2=CC1Br)NC(C)=O)[N+](=O)[O-] | C11H12BrN3O3
reactant | sodium acetate | 0.16 g | C(C)(=O)[O-].[Na+]
reactant | methanol | 75 mL | CO | CH4O
catalyst | palladium on carbon | 0.2 g | [Pd] | Pd
product | N-(2,3-dioxo-2,3,4,7,8,9-hexahydro-1H-cyclopenta[f]quinoxalin-8-yl)-acetamide | 0.15 g, 36% yield | O=C1C(NC=2C=CC3=C(C2N1)CC(C3)NC(C)=O)=O | C13H13N3O3
